US09226916B2
[(3S,4R)-4-(4-Chloro-phenyl)-1-(tetrahydro-furan-3-carbonyl)-pyrrolidin-3-yl]-methyl-carbamic acid 4-fluoro-phenyl ester
In analogy to the procedure described for the synthesis of example 44 (step c), the title compound [(3S,4R)-4-(4-chloro-phenyl)-1-(tetrahydro-furan-3-carbonyl)-pyrrolidin-3-yl]-methyl-carbamic acid 4-fluoro-phenyl ester was prepared from [(3S,4R)-4-(4-chloro-phenyl)-pyrrolidin-3-yl]-methyl-carbamic acid 4-fluoro-phenyl ester instead of [(3S,4R)-4-(3,4-dichloro-phenyl)-pyrrolidin-3-yl]-methyl-carbamic acid 4-fluoro-phenyl ester using rac-tetrahydro-3-furoic acid instead of 1-methylcyclopropane-1-carboxylic acid and was obtained as a light brown oil. MS m/e: 447.2 [M+H]+.

reactant | [(3S,4R)-4-(4-chloro-phenyl)-pyrrolidin-3-yl]-methyl-carbamic acid 4-fluoro-phenyl ester | FC1=CC=C(C=C1)OC(N(C)[C@@H]1CNC[C@H]1C1=CC=C(C=C1)Cl)=O | C18H18ClFN2O2
reactant | rac-tetrahydro-3-furoic acid | O1CC(CC1)C(=O)O | C5H8O3
product | [(3S,4R)-4-(4-chloro-phenyl)-1-(tetrahydro-furan-3-carbonyl)-pyrrolidin-3-yl]-methyl-carbamic acid 4-fluoro-phenyl ester | FC1=CC=C(C=C1)OC(N(C)[C@@H]1CN(C[C@H]1C1=CC=C(C=C1)Cl)C(=O)C1COCC1)=O | C23H24ClFN2O4
